### PR TITLE
[Merged by Bors] - feat: port Data.Nat.Choose.Cast

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Choose/Cast.lean [hunk 1]
```diff
@@ -0,0 +1,52 @@
...
+  rw_mod_cast [← mul_assoc, choose_mul_factorial_mul_factorial h]
+#align nat.cast_choose Nat.cast_choose
+
+theorem cast_add_choose {a b : ℕ} : ((a + b).choose a : K) = (a + b)! / (a ! * b !) := by
+  rw [cast_choose]
+  · rw [add_tsub_cancel_left]
+  · simp
+#align nat.cast_add_choose Nat.cast_add_choose
+
+-- Porting note: changed type ascription to coercion arrow around a - (b - 1)
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Choose/Cast.lean:40]: I don't think we need a porting note for things where mathport just produced the wrong output.

Comment (Parcly-Taxel) [reply Mathlib/Data/Nat/Choose/Cast.lean]: I was worried that there would be a substantial change in the type signature in using the coercion arrow, because the original uses an ascription to $\mathbb N$ and this is to $K$. Nevertheless the note has been removed.

**Review by eric-wieser — APPROVED** [review]
bors merge

File: Mathlib/Data/Nat/Choose/Cast.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Nat/Choose/Cast.lean]: The original ascription to ℕ was to make lean insert the coercion to K outside the parens. In lean 4 it seems it is no longer willing to insert it; but the one you inserted manually is identical to the one we wanted it to insert automatically
